Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ G1P1 undergoing IVF trx s/p egg retrieval on ___, 
transfer from ___ presenting with worsening abdominal pain 
and distention. She states that symptoms started yesterday with 
progressively worsening and intense abdominal pain. She denies 
nausea/vomiting. She presented to ___ and had pelvic 
ultrasound consistent with ovarian hyperstimulation syndrome and 
patient transferred here for Ob/Gyn eval. She denies recent 
weight changes, chest pain, abnormal discharge, nausea, 
vomiting, changes in bowel or bladder habits, dizziness or 
lightheadedness. She has noted intermittent SOB. Patient 
received 1.5mg IV Dilaudid at OSH and 2mg IV morphine.
 
Past Medical History:
PMH: infertility
-Denies history  of heart or respiratory disease, hypertension,
thromboembolic disease, cancer history.

PSH: IVF treatments

POBHx: 1 x SVD

PGYNHx:
Intermenstrual bleeding: denies
Dysmenorrhea: denies
Fibroids: denies
Cysts: denies
STIs: denies
Sexually active: yes, with husband
___: no
___: unknown
Last pap: ___, denies h/o abnormal Paps
 
Social History:
___
Family History:
Denies history of gyn or colon cancer, bleeding or clotting
disorder. 
 
Physical Exam:
PHYSICAL EXAM ON DAY OF PRESENTATION:
Temp 97.6  HR 114  (95-114)  BP 133/78   RR 16   97% RA 
Gen: well-appearing, appears her stated age
HEENT: NCAT, sclera anicteric, neck supple, trachea midline, no
thyromegaly
Neuro: moving all extremities equally, CN2-12 grossly normal
CV: RRR
Pulm: diffuse crackles at bilateral bases
Abd: soft, moderate distended, mild TTP throught the whole
abdomen, no rebound or guarding 
Pelvic: normal external genitalia, normal mucosa, normal
appearing cervix, no discharge or bleeding or lesions. On
bimanual exam, small mobile anteverted uterus, no CMT, no 
adnexal
tenderness or fullness. 
___: nontender, non edematous

PHYSICAL EXAM ON DAY OF DISCHARGE:
General: NAD, comfortable
CV: RRR
Lungs: CTAB
Abdomen: soft, mildly distended, nontender, no rebound or
guarding
Extremities: no edema, no calf tenderness/erythema/swelling

 
Pertinent Results:
___ 10:51PM   GLUCOSE-168* UREA N-13 CREAT-0.7 SODIUM-138 
POTASSIUM-5.9* CHLORIDE-104 TOTAL CO2-20* ANION GAP-14
___ 10:51PM   ALT(SGPT)-18 AST(SGOT)-43*
___ 10:51PM   CALCIUM-8.1* PHOSPHATE-2.7 MAGNESIUM-2.0
___ 10:51PM   WBC-11.7* RBC-4.25 HGB-13.2 HCT-38.9 MCV-92 
MCH-31.1 MCHC-33.9 RDW-12.5 RDWSD-41.0
___ 10:51PM   NEUTS-56.4 ___ MONOS-9.5 EOS-1.3 
BASOS-0.3 NUC RBCS-0.3* IM ___ AbsNeut-6.57*# AbsLymp-3.64 
AbsMono-1.11* AbsEos-0.15 AbsBaso-0.03
___ 10:51PM   PLT COUNT-185
___ 10:51PM   ___ PTT-22.3* ___
___ 10:51PM   ___
 
Brief Hospital Course:
Patient is a ___ G1P1 undergoing IVF treatment s/p oocyte 
retrieval on ___ who transferred from ___ and presented to 
___ ED with worsening abdominal pain and distention and PUS at 
___ demonstrating ovarian hyperstimulation syndrome with 
ascites and left pleural effusion. On exam she had diffuse 
crackles at bilateral lung bases and soft abdomen that was 
moderately distended and mildly tender throughout, with no 
rebound or guarding. She had no peripheral edema and a normal 
pelvic exam. She was discharged home from ED in stable condition 
with plan to present to ___ ___ for evaluation and 
probable culdocentesis.

Patient then represented to ___ on the evening of ___ after 
uncomplicated culdocentesis on ___ for 1.9L with worsening 
abdominal pain and distention, new onset shortness of breath, 
and nausea wth vomiting. On exam, she had diffuse crackles at 
bilateral bases, with a soft, moderately distended and 
moderately tender abdomen globally, without rebound or guarding. 
She was intermittently tachycardic to low 100s and overall 
hemodynamically stable. She was admitted with known ovarian 
hyper stimulation syndrome with concern for worsening ovarian 
hyperstimulation syndrome vs pulmonary embolus. Pelvic 
ultrasound revealed minimal free fluid, not significant enough 
to account for patient's symptoms. Chest XRAY revealed no 
evidence of edema and given worsening tachypnea, a CT angiogram 
was sent. CTA revealed multiple pulmonary emboli and a possible 
right lung infarct, therefore heparin drip was started 
immediately. Patient also had elevated serum glucose in the 
setting of known diabetes mellitus type 2.

On hospital day 1 (___), she reported minimal shortness of 
breath, improved from previous, and minimal abdominal pain 
controlled on PO ibuprofen, tylenol, and dilaudid. She was 
transitioned to therapeutic lovenox for confirmed pulmonary 
embolism, monitored continuously on telemetry, and started on 
insulin sliding scale for her type 2 diabetes. She was 
tachycardic to low 100s and tachypneic to respiratory rate of 
___ with normal oxygen saturations on room air. She had 
decreased breath sounds at bases bilaterally, tense, moderately 
distended abdomen, which was mildly tender to palpation in lower 
quadrants without rebound or guarding. She had elevated finger 
stick glucose levels and received insulin per sliding scale. An 
interventional radiology consult was ordered for possible 
drainage for symptomatic relief. Hematology was consulted for 
recommendations regarding outpatient anticoagulation.

On hospital day 2 (___), patient was found to have a 
subtherapeutic lovenox level (0.36). Patient reported that her 
shortness of breath and abdominal pain had resolved completely. 
Her tachycardia improved to low 100s and she was no longer 
tachypneic. Her abdominal exam was soft, with less distention 
than previous day. She had mildly elevated fingerstick glucose 
values and HgA1c was 8.2. Per heme recs, she had an ultrasound 
of lower extremities to further characterize clot burden, which 
was negative for any deep vein thromboses. Given asymptomatic 
from ovarian hyperstimulation syndrome, another culdocentesis 
was not indicated.

On hospital day 3 (___), patient denied any shortness of 
breath or abdominal pain. She had another lovenox level drawn 
and was found to be again subtherapeutic at 0.5, and thus 
lovenox dosage was uptitrated from 70mg every 12 hours to 90mg 
every 12 hours. Regarding ovarian hyperstimulation syndrome, she 
remained asymptomatic with abdominal exam soft and only 
minimally distended without tenderness. Heme recommended 
additional lovenox level, and decision was made to continue 
inpatient management to ensure uptitrated dosage achieved 
therapeutic level.

On hospital day ___, patient was found to have therapeutic 
lovenox level at 0.73. She was asymptomatic, with normal vital 
signs, and benign abdominal exam. She was discharged in stable 
condition with outpatient followups with reproductive 
endocrinology, hematology, and internal medicine arranged, and 
additional lovenox levels ordered outpatient.
 
Medications on Admission:
IVF injections
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
Please do not exceed 4000mg in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*50 Tablet Refills:*1 
2.  Enoxaparin Sodium 90 mg SC Q12H 
RX *enoxaparin 100 mg/mL 1 90 subcutaneous every 12 hours Disp 
#*60 Syringe Refills:*2 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Please take with food to prevent upset stomach 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours as 
needed Disp #*50 Tablet Refills:*0 
4.Outpatient Lab Work
Please draw LMW Heparin level on ___ at 12:00.
ICD10 code: ___ (pulmonary embolism)
Please fax results to Dr. ___ at ___.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ovarian hyperstimulation syndrome
pulmonary embolus
type 2 diabetes mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted with ovarian hyperstimulation syndrome after 
an egg retrieval on ___ and had fluid drained on ___. You had 
a pelvic ultrasound showing enlarged ovaries with a small amount 
of fluid. You were given Tylenol, Ibuprofen, and IV Dilaudid for 
pain control. Your pain has improved and lab results have 
normalized.

While in the hospital you had shortness of breath and imaging 
revealed a pulmonary embolus (clot in your lungs) with possible 
tissue infarction. We started you on a heparin (blood thinning) 
drip and transitioned you to Lovenox injections for your blood 
clot. You also had an ultrasound of your lower extremities which 
showed no clot in deep leg veins. You were given oxygen for 
breathing and are now breathing comfortable on room air. 

For your Type 2 diabetes, you were given insulin for your high 
glucose values. We checked your HgA1c (measurement of glucose 
control over past 3 months) which was 8.2.

Overall, you have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office 
with any questions or concerns. Please follow the instructions 
below. Please follow the instructions below.

General instructions:
* Please have your blood drawn at outpatient lab on ___ at 
12:00. This is very important to ensure that your Lovenox level 
is appropriate to treat your pulmonary embolus.
* Do not take more than 4000mg acetaminophen (APAP) in ___ hrs.

Call your doctor for:
* worsening shortness of breath, dizziness, or chest pain
* lower extremity calf swelling/redness/pain
* fever > 100.4F
* severe abdominal pain or worsening abdominal distention
* difficulty urinating
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication
 
Followup Instructions:
___